US07129208B2
A solution of Boc-L-Proline (1.43 g, 6.7 mmol) and Gly-Gly-Gly-OCH2Ph.TsOH (3.0 g, 6.7 mmol) in CH2Cl2 (40 mL) and Et3N (2.80 mL) was cooled to 5° C. and 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride (1.34 g, 7.0 mmol) was added. The reaction was stirred at ambient temperature for 3 days and then the solvent was evaporated. The crude material was dissolved in ethyl acetate (50 mL) and washed with saturated aqueous NH4Cl (25 mL), brine (25 mL), dried over MgSO4, and then evaporated to dryness. The product was purified by column chromatography (SiO2, CH2Cl2-MeOH 95:5) to give Boc-Pro-Gly-Gly-Gly-OCH2Ph (SEQ ID NO.: 1) (2.25 g, 71%) as colorless crystals, mp 54–55° C. 1H-NMR (300 MHz, δ, CDCl3): 1.42 (9H, s), 1.80–2.20 (4H, m), 3.35–3.55 (2H, m), 3.85–4.20 (7H, m), 5.15 (2H, s), 7.05 (2H, bs), 7.30–7.35 (5H, m), 7.80 (1H, bs). 13C-NMR (75 MHz, δ, CDCl3): 24.6, 28.3, 29.4, 41.1, 43.0, 43.3, 47.2, 60.7, 66.9, 80.9, 128.4, 128.5, 128.7, 135.4, 155.8, 169.6, 170.0, 173.9. IR (KBr, cm−1):, 1753(CO), 1667(CO).

reactant | Boc-L-Proline | 6.7 mmol, 1.43 g | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | Gly-Gly-Gly-OCH2Ph | NCC(=O)NCC(=O)NCC(=O)OCC1=CC=CC=C1 | C13H17N3O4
reactant | TsOH | 6.7 mmol, 3.0 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | 7.0 mmol, 1.34 g | Cl.CN(CCCN=C=NCC)C
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | Et3N | 2.80 mL | CCN(CC)CC | C6H15N
product | Boc-Pro-Gly-Gly-Gly-OCH2Ph | N1([C@H](C(=O)NCC(=O)NCC(=O)NCC(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C23H32N4O7
